US07332614B2
To a suspension of 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester (20.00 g, 46.15 mmol) in n-propanol (100 mL) and water (100 mL) was added 50% NaOH (4.06 g, 50.77 mmol). The mixture was heated at 89° C. until no starting material was left (0.5 h). The clear solution was cooled to 50° C. and acetic acid (4.23 mL, 73.85 mmol) was added dropwise to adjust the pH to 5-6. The product was precipitated as a white solid. The suspension was brought to reflux for 0.5 h and then allowed to cool to room temperature in no less than 1 h. The solid was collected by filtration, washed by 1:1 water/n-propanol (100 mL) and water (200 mL). The 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino}-cyclobutanecarboxylic acid, obtained as a white solid was dried under vacuum until constant weight (17.78 g, 97%).

reactant | 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester | 46.15 mmol, 20.00 g | COC(=O)C1(CCC1)NC(=O)C1=CC=C2C(=C(N(C2=C1)C)Br)C1CCCC1 | C21H25BrN2O3
reactant | NaOH | 50.77 mmol, 4.06 g | [OH-].[Na+]
reactant | acetic acid | 73.85 mmol, 4.23 mL | C(C)(=O)O | C2H4O2
solvent | n-propanol | 100 mL | C(CC)O | C3H8O
solvent | water | 100 mL | O | H2O
product | 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino}-cyclobutanecarboxylic acid | BrC=1N(C2=CC(=CC=C2C1C1CCCC1)C(=O)NC1(CCC1)C(=O)O)C | C20H23BrN2O3
